US04594092
Preparation of 1-cyano-3-(3,5-dichlorophenyl)guanidine
To a solution of 4.45 g (0.05 mol) of sodium dicyanamide in 50 ml of 1N HCl is added 8.1 g (0.05 mol) of 3,5-dichloroaniline in 50 ml of H2O. The mixture is heated to about 80° C. to 100° C. for two hours. The mixture is then cooled, and the precipitated solids are recovered by filtration, washed and dried to give 8.75 g of the desired product having a melting point of 196° C.-198° C.

reactant | sodium dicyanamide | 0.05 mol, 4.45 g | [N-](C#N)C#N.[Na+]
reactant | 3,5-dichloroaniline | 0.05 mol, 8.1 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | HCl | 1N, 50 ml | Cl | ClH
solvent | H2O | 50 ml | O | H2O
product | 1-cyano-3-(3,5-dichlorophenyl)guanidine | 8.75 g | C(#N)NC(=N)NC1=CC(=CC(=C1)Cl)Cl | C8H6Cl2N4
